US07592454B2
4-Methylphenyl 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl sulfide (200 mg, 0.68 mmol) was brought to reflux with formaldehyde (37% aq., 0.68 mL) in MeOH (1.8 mL) for 30 minutes. The reaction was then cooled to 0° C. and sodium borohydride (89 mg, 1.3 mmol) was added slowly. The solution was allowed to stir at room temperature for 2 hours. Ice chips were then added and the reaction partitioned between CHCl3 and water. The aqueous layer was extracted with CHCl3 (3×10 mL). The combined extracts were washed with sat. NaCl (10 mL) and dried (MgSO4) and evaporated. The residue was dissolved in 1 mL EtOH and 1N HCl-Ether was added until no further precipitation was seen. The solid was filtered affording 2-methyl-6-[(4-methylphenyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole as a light tan solid (178 mg, 76%). 1H NMR (CD3OD, 300 MHz) δ 7.49 (d, 1H, J=8.1 Hz), 7.26 (d, 1H, J=7.6 Hz), 7.07 (t, 1H, J=7.7 Hz), 6.97-7.02 (m, 4H), 4.42 (s, 2H), 3.58 (t, 2H, J=6.2 Hz), 3.05-3.21 (m, 5H), 2.25 (s, 3H) ppm.

reactant | 4-Methylphenyl 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl sulfide | 0.68 mmol, 200 mg | C1NCCC=2NC=3C(=CC=CC3C21)SC2=CC=C(C=C2)C | C18H18N2S
reactant | formaldehyde | 0.68 mL | C=O | CH2O
reactant | sodium borohydride | 1.3 mmol, 89 mg | [BH4-].[Na+]
solvent | MeOH | 1.8 mL | CO | CH4O
product | 2-methyl-6-[(4-methylphenyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 178 mg, 76% | CN1CC2=C(NC=3C(=CC=CC23)SC2=CC=C(C=C2)C)CC1 | C19H20N2S
